US07968542B2
5-(2-Cyanobutyryl)thiophene-2-carbohydrazide
Methyl 5-(2-cyanobutyryl)thiophene-2-carboxylate (213 mg, 0.90 mmol) in methanol was stirred with 0.1 M potassium hydroxide in methanol (9.0 mL, 0.90 mmol) at room temperature for 10 minutes and then with hydrazine monohydrate (225 mg, 4.50 mg) at 80° C. for 6 hours. After addition of saturated aqueous sodium chloride, the reaction solution was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and concentrated to give the crude desired product.

reactant | Methyl 5-(2-cyanobutyryl)thiophene-2-carboxylate | 0.90 mmol, 213 mg | C(#N)C(C(=O)C1=CC=C(S1)C(=O)OC)CC | C11H11NO3S
reactant | potassium hydroxide | 0.1 M | [OH-].[K+]
reactant | hydrazine monohydrate | 225 mg | O.NN
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 0.90 mmol, 9.0 mL | CO | CH4O
product | 5-(2-Cyanobutyryl)thiophene-2-carbohydrazide | C(#N)C(C(=O)C1=CC=C(S1)C(=O)NN)CC | C10H11N3O2S
